US04011335
By the procedure of Example 1, 1-bromo-3-ethyl-7,9-dimethyl-2,6-decadiene is reacted with sesamol to obtain 1,2-(methylenedioxy-4-[(3-ethyl-7,9-dimethyl-2,6-decadienyl)-oxy]-benzene; nD24 = 1.5190.

reactant | 1-bromo-3-ethyl-7,9-dimethyl-2,6-decadiene | BrCC=C(CCC=C(CC(C)C)C)CC | C14H25Br
reactant | sesamol | C1OC2=C(O1)C=C(C=C2)O | C7H6O3
product | methylenedioxy-4-[(3-ethyl-7,9-dimethyl-2,6-decadienyl)-oxy]-benzene | C1OC2=C(C=C(C=C2)OCC=C(CCC=C(CC(C)C)C)CC)O1 | C21H30O3
